US05663440
In a 1-liter three-necked flask equipped with a stirring device and a nitrogen substituting device, 16.4 g of 1,1-bis(4-(4-(4-nitrophenylmethyl)phenylmethyl)phenyl)methane was dissolved in 500 milliliters of tetrahydrofuran, 1.7 g of a Pd-C catalyst (a 5% product, containing 54.8% of water) was added and contacted with hydrogen gas while cooled with water at a normal pressure and then stirred. After absorption of hydrogen was stopped, the catalyst was filtered off and the objective product adhered to a residual layer of the catalyst was washed with chloroform thoroughly and then the filtrate was concentrated. By recrystallizing the concentrate from a chloroform solvent, 11.0 g of a diamino compound according to the invention, that is, 1,1-bis(4-(4-(4-aminophenylmethyl)phenylmethyl)phenyl)methane was obtained as crystals. Melting point was from 192.0° to 193.0° C.

reactant | 1,1-bis(4-(4-(4-nitrophenylmethyl)phenylmethyl)phenyl)methane | 16.4 g | [N+](=O)([O-])C1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)[N+](=O)[O-] | C41H34N2O4
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 500 milliliters | O1CCCC1 | C4H8O
catalyst | Pd-C | 1.7 g | [Pd] | Pd
product | 1,1-bis(4-(4-(4-aminophenylmethyl)phenylmethyl)phenyl)methane | NC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)N | C41H38N2
